US06911442B1
(c) 3-Phenoxypropionaldehyde
3-Phenoxypropan-1-ol (3.17 g, 20.86 mmol) was dissolved dichloromethane (25 mL) and pyridinium chlorochromate (6.76 g, 31.28 mmol) was added. The slurry was stirred at room temperature for 1 hour and then filtered through silica gel eluting with an ethyl acetate/hexanes gradient. The desired compound was isolated as a yellow oil (1.1 g).

reactant | 3-Phenoxypropan-1-ol | 20.86 mmol, 3.17 g | O(C1=CC=CC=C1)CCCO | C9H12O2
reactant | pyridinium chlorochromate | 31.28 mmol, 6.76 g | [Cr](=O)(=O)([O-])Cl.[NH+]1=CC=CC=C1
solvent | dichloromethane | 25 mL | ClCCl | CH2Cl2
product | 3-Phenoxypropionaldehyde | O(C1=CC=CC=C1)CCC=O | C9H10O2
